Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Chest pain, shoulder pain, back pain, knee pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo homeless male with PMH of HTN, DM, Hep C, peripheral 
neuropathy, vericose veins, ? atrial fibrillation, depression, 
s/p b/l knee surgery for torn ACLs, L rotator cuff tear presents 
for complaints of chest pain, left shoulder pain, and bilateral 
knee pain. Shoulder and knee pain have been long standing. Says 
he has had the same chest pain intermittently for the last 6 
months, comes in today because pain is worse than it's been 
before. Describes it as a sharp pain on the lateral left chest 
that radiates down his left side. Says it has no association 
with exertion. Sometimes worse when he moves his left shoulder. 
Took nothing for it. Endorses some shortness of breath 
associated with the chest pain. Denies diaphoresis, nausea, 
vomiting, abdominal pain.  
.  
As per patient, he went to ___ Neighborhood Clinic when 
pain started. They didn't do anything for him other than an EKG 
and check his blood glucose which was in the 500s. They gave him 
some insulin and sent him to ___.  
.  
In the ED, initial VS: T 96.9, P 70, BP 107/49, RR 16, Sat 96% 
RA. Patient had elevated MBI at ___ and 
was sent here for ___ set. Fingerstick was 360 for which he 
received insulin. Patient was positive for EtOH, was given 
thiamine. EKG was normal. Pt had an elevated BNP, but we have no 
baseline as patient has never been seen here. Patient also 
received levofloxacin in ED for possible infiltrates seen on 
CXR. Pain was controlled with morphine IV 4mg x 1 and 2mg x 1.  
.  
Currently pt is agitated. Knows very little about his own 
medical history and what medications he is on. Says he feels 
very scattered, very upset at how he was treated at the clinic 
and the emergency room. Very upset about his mother passing away 
a month and a half ago. Does not know anything about his own 
medication with except his methadone. Says he is very worried 
about his methadone, says he's on it for pain because of his 
back, knees, and shoulder. Pt has questionable drug history as 
per Dr. ___ pt says he's never taken drugs. Wants to go 
to rehab for his chronic shoulder and knee pain. Claims that if 
we discharge him without rehab, he might kill himself, but has 
no plan, no intention currently. Does not want to go back to the 
shelter. Resting comfortably when last seen at bedside.  

 
Past Medical History:
chronic MSK pain  
HTN  
DM  
Hepatitis C  
Peripheral Neuropathy  
Vericose veins  
? Atrial Fibrillation  
Left rotator cuff tear  
s/p knee surgery bilaterally for torn ACL  
s/p unspecified back surgery  
h/o suicidality requiring 2 month hospital stay  
 
Social History:
___
Family History:
Mother and father died of MI, multiple aunts and uncles died of 
MI. Brother died of MI. History of DM in family. 
 
Physical Exam:
Vitals - T: 97.2 BP: 130/60 HR: 75 RR: 18 02 sat: 97% on RA  
GENERAL: slightly agitated, AAOx3, no tremors  
HEENT: PERRLA, EOMI, neck supple, no LAD  
CARDIAC: S1S2, RRR, no m/r/g. chest pain can be slightly 
reproduced on palpation.  
LUNG: right base slight crackles  
ABDOMEN: soft, ND, NT, +BS  
EXT: no e/c/c, no tremors  
NEURO: agitated, very fixated on mother's death, going to rehab. 
CNII-XII grossly intact. ___ strength in all extremities.
 
Pertinent Results:
CBC
___ 11:35AM BLOOD Hct-33.5*
___ 06:15AM BLOOD WBC-8.6 RBC-3.49* Hgb-10.7* Hct-32.6* 
MCV-93 MCH-30.7 MCHC-32.9 RDW-14.1 Plt ___
___ 02:30AM BLOOD WBC-9.3 RBC-4.36* Hgb-13.4* Hct-40.2 
MCV-92 MCH-30.8 MCHC-33.4 RDW-14.0 Plt ___

Chemistry
___ 06:15AM BLOOD Glucose-261* UreaN-13 Creat-0.6 Na-138 
K-3.6 Cl-106 HCO3-25 AnGap-11
___ 09:05AM BLOOD Glucose-333* UreaN-14 Creat-0.7 Na-139 
K-4.1 Cl-109* HCO3-22 AnGap-12
___ 02:30AM BLOOD Glucose-375* UreaN-15 Creat-0.8 Na-140 
K-3.3 Cl-103 HCO3-20* AnGap-20

Troponin
___ 05:45PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 09:05AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 02:30AM BLOOD cTropnT-<0.01

CHEST (PORTABLE AP) Study Date of ___ 2:34 AM 
FINDINGS: There are low lung volumes. The cardiac, mediastinal, 
and hilar 
contours are unchanged. There is no focal consolidation or 
effusion. 
Bibasilar atelectasis is noted. Again noted is apparent 
diastasis or possibly postsurgical appearance of the left 
acromioclavicular joint, better seen on prior radiograph. 
IMPRESSION: 
1. No acute cardiopulmonary process. Bibasilar atelectasis. 
2. Diastasis or post-surgical appearance of the left AC joint, 
better 
appreciated on prior radiograph. 

 
Brief Hospital Course:
___ yo homeless male with PMH of HTN, DM, Hep C, chronic pain, 
presents for complaints of chest pain.

#. Chest pain - patient presented to ED with atypical chest pain 
described as a sharp intermittent pain that is focused on his 
left lateral chest wall and radiates down his left side.  Says 
it has no association with exertion, but often comes on when he 
moves his left shoulder.  Denied diaphoresis, nausea, vomiting, 
abdominal pain.  Chest pain does not sound to be anginal based 
on history. Troponins were negative x 3, telemetry showed no 
significant events.  Patient had an outpatient nuclear stress 
test on ___ which showed no evidence of MI, normal LVEF of 
54% and normal global wall function.  Patient's symptoms were 
partially reproducible on palpation.  Chest pain likely due to 
musculoskeletal etiology.  As per patient, he has chronic pain 
in his left shoulder, back, and knees.  Pain was controlled 
using outpatient regimen of methadone 20mg TID, (confirmed with 
patient's PCP), lidocaine patches, and heating packs.
.
#. Chronic left shoulder, back, bilateral knee pain - patient 
has had chronic musculoskeletal pain due to knee surgery, back 
surgery, and left rotator cuff tear.  Has been followed by PCP 
on methadone for pain management.  Methadone continued during 
hospital stay.  Started patient on lidocaine patch and heat 
packs for additional pain relief with good pain relief.  ___ 
evaluated the patient, noted that pt has no difficulty 
ambulating on his own unassisted, would not qualify for rehab as 
he has no skilled needs.  Patient needs follow up for pain 
management.  Patient was offered to follow up with chronic pain 
at BID, but he refused saying he gets his pain followed up with 
his PCP. 
  Patient reports that his monthly methadone supply was stolen.  
Patient has history of doubling his methadone dosing and 
violating his contract.  Was seen in the ED in ___ for 
methadone intoxication.  As we are unable to prescribe 
methadone, MS contin was prescribed for the interrim 3 day 
period for pain management until patient would be able to see 
Dr. ___ at ___ regarding his methadone.
.
#. Anemia - Patient's hct went from 40.2 in the ED to 32.6 on 
the medicine floor.  A repeat Hct showed 33.1.  Patient has no 
clinical signs of bleeding.  Drop in hct can possibly be due to 
IVF dilution as everything on CBC decreased proportionately.  
Patient has been hemodynamically stable for the entire hospital 
admission, no complaints of lightheadedness, shortness of 
breath, or dizziness.
.  
#. Diabetes - patient is noncompliant on insulin, but takes 
metformin.  HbA1c baseline around 10, found to have HbA1c of 
11.3 on admission labs.  Restarted patient on metformin and the 
insulin regimen his PCP started him on with satisfactory blood 
glucose control.  Will most likely require further management as 
outpatient for diabetic control.  Discussed with patient, says 
he will follow up with Dr. ___.
.
#. HTN - patient has history of hypertension.  Patient was 
continued on his outpatient lisinopril and clonidine dosages 
with good blood pressure control.  No changes were made to his 
outpatient medications. 
.  
#. h/o suicidality/Psych - Pt volunteers that he wants to go to 
rehab, and that if he can't go, then he might kill himself.  Has 
no plan or intention currently.  Does not sound like pt is 
seriously considering killing himself because at other times, he 
threatens to simply sit in front of the hospital until we get 
him into rehab.  
  Of note, has a past history of a 2 month admission for 
suicidality.  Pt also very upset over mother's death 1.5 months 
ago.  Would likely benefit from speaking to a therapist, but pt 
did not want to discuss his mother during hospital stay, only 
focused on his chronic pain and methadone.
.  
#. Homelessness - patient currently lives in a shelter, but he 
does not like it there.  On and off he will leave the shelter 
and sleep in the park.  Social worker was not able to get him a 
bed at ___, and offered to at least call other 
shelters for him since he did not like the one he was at now.  
Patient refused, saying that he does not like shelters, that 
he'd rather go back onto the streets.  Patient implored to at 
least return to his shelter so he would have access to his 
medications until his appointment with his PCP ___ 3 days, but pt 
was adamant about going back onto the streets.  ___ provided pt 
with T passes and money for food.
.  
#. Hepatitis C - patient has past history of Hep C, is currently 
stable.  No treatment for Hep C pursued during hosptial stay.  
Recommend follow up with PCP.
 
Medications on Admission:
Methadone 20 mg TID  
Lantus 20 units qPM  
Metformin 1000 mg BID  
Lisinopril 20 mg daily  
Clonidine 0.2 BID
Lantus insulin 20 units at bedtime
Humalog insulin sliding scale
 
Discharge Medications:
1. Methadone 10 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
2. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
3. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Clonidine 0.1 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*2*
6. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily): place 
on area with worst pain.  12 hours on, 12 hours off.
Disp:*10 Adhesive Patch, Medicated(s)* Refills:*0*
7. Insulin Glargine 100 unit/mL Cartridge Sig: Twenty (20) units 
Subcutaneous at bedtime.  
8. Insulin
as per hospital flow insulin sliding scale flowsheet
9. MS ___ 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO twice a day for 3 days: please do not take 
while driving or operating heavy machinery as this medication 
can cause drowsiness.
Disp:*6 Tablet Sustained Release(s)* Refills:*0*
10. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Chronic musculoskeletal pain

Secondary Diagnosis:
HTN
DM
Hepatitis C
s/p bilateral knee surgery for torn ACL
s/p back surgery for unspecified reason
h/o suicidality with 2 month hospital stay

 
Discharge Condition:
Good. Afebrile.

 
Discharge Instructions:
You were admitted to ___ for 
complaints of chest pain.  You were ruled out for mycocardial 
infarction.  The chest pain is most likely due to an acute 
episode of your chronic musculoskeletal pains.  Your pain was 
managed during the admission by continuing you on your 
outpatient methadone dosage as well as lidocaine patches and 
heating packs.  During your stay you were also seen by physical 
and occupational therpists.

Your medications have changed, please make note of the following 
changes:
- new medication: lidocaine 5% patch, one patch to area of most 
pain, 12 hours on and 12 hours off
The rest of your medications have not changed, please continue 
to take them as originally prescribed.  You can also apply 
heating packs to your back, knees, and shoulder for additional 
pain relief.

Please keep all your medical appointments

If you experience worsening chest pain, shortness of breath, or 
any other worrisome symptoms please return to the emergency 
room.
 
Followup Instructions:
___